US05811439
Indole-4-carbaldehyde (580 mg) was dissolved in 8 ml of dimethylformamide, then 176 mg of sodium hydride (content 60%) was added to the resulting solution with ice-cooling, followed by stirring for one hour, addition of 777 mg of benzenesulfonyl chloride and stirring for one hour. To the reaction solution, there were added 50 ml of ethyl acetate and 50 ml of a saturated sodium hydrogen carbonate aqueous solution followed by stirring for 30 minutes. After separation of phases, the aqueous phase was further extracted with 50 ml of ethyl acetate. The combined organic phase was washed with 50 ml of saturated common salt solution, dried over anhydrous sodium sulfate, followed by evaporation of the solvent under reduced pressure to give a crude product. The crude product was subjected to silica gel chromatography (eluent: hexane/ethyl acetate=9/1) to give 842 mg of 1-benzenesulfonylindole-4-carbaldehyde as pale brown crystals. The yield thereof was found to be 74%.

reactant | Indole-4-carbaldehyde | 580 mg | N1C=CC=2C(=CC=CC12)C=O | C9H7NO
reactant | sodium hydride | 176 mg | [H-].[Na+]
reactant | benzenesulfonyl chloride | 777 mg | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | sodium hydrogen carbonate | 50 ml | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 1-benzenesulfonylindole-4-carbaldehyde | 842 mg | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C(=CC=CC12)C=O | C15H11NO3S
